US07384963B2
2′-Methyl-N-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(4-phenoxybenzyl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(4-phenoxybenzyl)-1,1′-biphenyl-4-carboxamide and iodomethane using method L. NMR; δH [2H6]—DMSO 7.89,(1H, d), 7.76,(1H, s), 7.55-7.48,(5H, m), 7.40-7.36,(3H, m), 7.23,(1H, b), 7.13,(1H, t), 7.01,(4H, m), 4.684.52,(2H, m), 2.91,(3H, s), 2.55,(3H, s), 2.32,(3H, s). LCMS; retention time 3.85 min, MH+ 490.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(4-phenoxybenzyl)-1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)NCC1=CC=C(C=C1)OC1=CC=CC=C1 | C30H25N3O3
reactant | iodomethane | IC | CH3I
product | 2′-Methyl-N-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(4-phenoxybenzyl)-1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)N(CC1=CC=C(C=C1)OC1=CC=CC=C1)C | C31H27N3O3
